US06255305B1
b) (2-Propyl-2H-1,2,4-triazol-3-yl)methanol
To a solution of 5-(tert-butyldimethylsilanyloxymethyl)-1-propyl-1H-1,2,4-triazole (from Step a) (4.10 g, 16.1 mmol) in ethanol (18 ml) and methanol (36 ml) was added 4 M aqueous NaOH (6 ml, 24 mmol) and the mixture was stirred at room temperature for 19 h, then at 45° C. for another 5 h. The solvents were removed in vacuo and the residue was purified by flash chromatography (silica gel, EtOAc, then 10% MeOH/CH2Cl2) to leave 1.976 g (87%) of the title compound as a pale yellow oil: 1H NMR (250 MHz, CDCl3) δ 0.95 (3H, t, J=7.4 Hz), 1.91 (2H, sextet, J=7.4 Hz), 4.16 (2H, t, J=7.3 Hz), 4.76 (2H, s), 7.81 (1H, s).

reactant | 5-(tert-butyldimethylsilanyloxymethyl)-1-propyl-1H-1,2,4-triazole | [Si](C)(C)(C(C)(C)C)OCC1=NC=NN1CCC | C12H25N3OSi
reactant | methanol | 36 ml | CO | CH4O
reactant | NaOH | 24 mmol, 4 M, 6 ml | [OH-].[Na+]
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | (2-Propyl-2H-1,2,4-triazol-3-yl)methanol | 1.976 g, 87% | C(CC)N1N=CN=C1CO | C6H11N3O
